US06660872B1
Methyl 2-(2-Hydroxyphenyl)-2-methoxyimino-acetate (Example II-1b)
10.4 g (0.0533 mol) of methyl 2-hydroxyphenylglyoxylate (HPLC: 92.4%, log p=1.87) from process step 2 and 7.4 g (0.089 mol) of 0-methylhydroxylamine hydrochloride in 150 ml of methanol are boiled under reflux for three hours. The reaction mixture is poured into water, the product is extracted with diethyl ether, the organic phase is dried over sodium sulphate and the solvent is distilled off under reduced pressure. This gives 8.2 g of crude product which, according to HPLC, contains 17.2% methyl E-2-(2-hydroxyphenyl)-2-methoxyimino-acetate of log p=1.48 and 65.4% methyl Z-2-(2-hydroxyphenyl)-2-methoxyimino-acetate of log p=2.38.

reactant | methyl 2-hydroxyphenylglyoxylate | 0.0533 mol, 10.4 g | OC1=C(C=CC=C1)C(C(=O)OC)=O | C9H8O4
reactant | 0-methylhydroxylamine hydrochloride | 0.089 mol, 7.4 g | CO[NH3+].[Cl-]
reactant | water | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | Methyl 2-(2-Hydroxyphenyl)-2-methoxyimino-acetate | OC1=C(C=CC=C1)C(C(=O)OC)=NOC | C10H11NO4
